US04215123
A stirred mixture of 9.25 g. (0.05 mole) of methyl 2-chloro-6-methylnicotinate, 2,85 g. (0.05 mole) of allylamine and 5.3 g. (0.05 mole) of sodium carbonate in 50 ml. of ethanol was heated under reflux for 5 hours. The mixture was filtered and the filtrate was evaporated in a rotary evaporator. The residue was diluted with 50 ml. of water and was extracted with 50 ml. of diethyl ether. The ether layer was dried over magnesium sulfate, filtered and was evaporated. The residue was passed through a neutral aluminum oxide column using ethyl acetate as the eluent. Evaporation of the ethyl acetate gave 3.1 g. of product. A small amount of this oil was dissolved in diethyl ether containing a few drops of ethanol and this solution was acidified with an ethereal hydrochloric acid solution. The precipitate which formed was collected and was recrystallized from ethyl acetate to give 2-allylamino-6-methylnicotinic acid methyl ester, m.p. 140°-2° C.

reactant | methyl 2-chloro-6-methylnicotinate | 0.05 mole | ClC1=C(C(=O)OC)C=CC(=N1)C | C8H8ClNO2
reactant | allylamine | 0.05 mole | C(C=C)N | C3H7N
reactant | sodium carbonate | 0.05 mole | C([O-])([O-])=O.[Na+].[Na+]
reactant | hydrochloric acid | Cl | ClH
catalyst | diethyl ether | a few drops | C(C)OCC | C4H10O
solvent | ethanol | C(C)O | C2H6O
product | 2-allylamino-6-methylnicotinic acid methyl ester | COC(C1=C(N=C(C=C1)C)NCC=C)=O | C11H14N2O2
